US04046763
2-Chloro-3-(p-chlorophenyl)pyrazine is prepared by the method of Karmas and Spoerri. (loc. cit.), using 3-(p-chlorophenyl)pyrazinol as the starting material. Starting with this material and using the procedures of Examples V, VI, IX, and XI, the products obtained are diethyl α-methyl-3-(p-chlorophenyl)pyrazinylmalonate, ethyl α-methyl-3-(p-chlorophenyl)pyrazineacetate, α-methyl-3-(p-chlorophenyl)pyrazineacetic acid, and α-methyl-3-(p-chlorophenyl)pyrazineacetamide.

reactant | 3-(p-chlorophenyl)pyrazinol | ClC1=CC=C(C=C1)C=1C(=NC=CN1)O | C10H7ClN2O
reactant | diethyl α-methyl-3-(p-chlorophenyl)pyrazinylmalonate | CC(C(=O)OCC)(C(=O)OCC)C1=NC=CN=C1C1=CC=C(C=C1)Cl | C18H19ClN2O4
reactant | ethyl α-methyl-3-(p-chlorophenyl)pyrazineacetate | CC(C(=O)OCC)C1=NC=CN=C1C1=CC=C(C=C1)Cl | C15H15ClN2O2
reactant | α-methyl-3-(p-chlorophenyl)pyrazineacetic acid | CC(C(=O)O)C1=NC=CN=C1C1=CC=C(C=C1)Cl | C13H11ClN2O2
reactant | α-methyl-3-(p-chlorophenyl)pyrazineacetamide | CC(C(=O)N)C1=NC=CN=C1C1=CC=C(C=C1)Cl | C13H12ClN3O
product | 2-Chloro-3-(p-chlorophenyl)pyrazine | ClC1=NC=CN=C1C1=CC=C(C=C1)Cl | C10H6Cl2N2
